US04459403
To a solution of 1.0 g (0.0075 mole) of 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione in 50 ml of dry freshly distilled dioxane is added 0.66 g (0.007 mole) of 2-imidazolidone. After stirring at room temperature for 17 hours, the solution is filtered, washed with chloroform and dried to give a yield of 1.3 g (94 percent) of 5-(2-oxo-1-imidazolidinyl)-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione | 0.0075 mole, 1.0 g | O1NC(NC(C1)=S)=O | C3H4N2O2S
reactant | 2-imidazolidone | 0.007 mole, 0.66 g | N1C(NCC1)=O | C3H6N2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(2-oxo-1-imidazolidinyl)-6H-1,2,4-oxadiazin-3(2H)-one | yield of 1.3 g, 94 percent | O=C1N(CCN1)C1=NC(NOC1)=O | C6H8N4O3
